US08624056B2
Anthranilic acid (1.00 g, 7.29 mmol) was added to a solution of 2,2,5-trimethyl-1,3-dioxane-4,6-dione (1.27 g, 8.02 mmol) in toluene (10 mL). The reaction flask was fitted with a Dean-Stark apparatus and the suspension was heated to reflux for 3 h. The suspension was cooled, filtered, washed with toluene and dried. 2-[(2-Carboxy-1-oxopropyl)amino]benzoic acid (1.46 g, 85%) was obtained as a colourless solid; δH (500 MHz, DMSO-d6) 1.31 (d, J=7.2 Hz, 3H, CH3), 3.52 (q, J=7.2 Hz, 1H, CH), 7.16 (t, J3,4=J4,5=8.0 Hz, 1H, H4), 7.59 (td, J4,5=J5,6=8.0, J3,5=1.5 Hz, 1H, H5), 7.98 (dd, J3,4=8.0, J3,5=1.5 Hz, 1H, H3), 8.46 (d, J5,6=8.0 Hz, 1H, H6), 11.36 (s, 1H, NH), 12.87 (br s, 1H, CO2H), 13.52 (br s, 1H, CO2H); δC (125 MHz, DMSO-d6) 13.6, 48.4, 116.7, 120.0, 122.9, 131.1, 134.1, 140.5, 168.2, 169.4, 171.6. νmax 1172, 1251, 1587, 1679, 2553, 2941, 2990, 3332 cm−1.

reactant | Anthranilic acid | 7.29 mmol, 1.00 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | 2,2,5-trimethyl-1,3-dioxane-4,6-dione | 8.02 mmol, 1.27 g | CC1(OC(C(C(O1)=O)C)=O)C | C7H10O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[(2-Carboxy-1-oxopropyl)amino]benzoic acid | 1.46 g, 85% | C(=O)(O)C(C(=O)NC1=C(C(=O)O)C=CC=C1)C | C11H11NO5
